US07304081B2
Step 2. 1-[4-(3-methylisoxazol-4-yl)phenyl]cyclopropanecarbonitrile
To a mixture of 1-(4-ethynylphenyl)cyclopropanecarbonitrile (200 mg, 0.001 mol) acetaldoxime (71 mg, 0.0012 mol) in tetrahydrofuran (5.0 mL, 0.062 mol) was added N-chlorosuccinimide (160 mg, 0.0012 mol) in portions with stirring. After the addition was complete, triethylamine (170 μL, 0.0012 mol) was added. The mixture was stirred at rt for 2 days. The reaction mixture was diluted with ethyl acetate and washed with water and brine successively, dried over MgSO4 and filtered. The filtrate was concentrated to afford the desired product in quantitative yield.

reactant | 1-(4-ethynylphenyl)cyclopropanecarbonitrile | 0.001 mol, 200 mg | C(#C)C1=CC=C(C=C1)C1(CC1)C#N | C12H9N
reactant | tetrahydrofuran | 0.062 mol, 5.0 mL | O1CCCC1 | C4H8O
reactant | N-chlorosuccinimide | 0.0012 mol, 160 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | triethylamine | 0.0012 mol, 170 μL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-methylisoxazol-4-yl)phenyl]cyclopropanecarbonitrile | quantitative yield | CC1=NOC=C1C1=CC=C(C=C1)C1(CC1)C#N | C14H12N2O
